### PR TITLE
[Merged by Bors] - feat: port GroupTheory.Submonoid.Operations

### PR DESCRIPTION
**Pull request by LukasMias**
Starting the port of this file; due to its size, help is appreciated!

### CODE REVIEW

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 1]
```diff
@@ -79,39 +79,46 @@ section
...
-    (Submonoid.toAddSubmonoid.le_symm_apply.1 <| Submonoid.closure_le.2 AddSubmonoid.subset_closure)
-    (AddSubmonoid.closure_le.2 Submonoid.subset_closure)
-#align submonoid.to_add_submonoid_closure Submonoid.to_add_submonoid_closure
+    Submonoid.toAddSubmonoid (Submonoid.closure S)
+      = AddSubmonoid.closure (Additive.toMul ⁻¹' S) := by
+    apply le_antisymm
+      (Submonoid.toAddSubmonoid.le_symm_apply.mp (Submonoid.closure_le.mpr _))
+      (AddSubmonoid.closure_le.mpr _)
+    exact @AddSubmonoid.subset_closure (Additive M) _ S
+    exact @Submonoid.subset_closure M _ S
```
Comment (hrmacbeth) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:112]:
```suggestion
  apply le_antisymm
      (Submonoid.toAddSubmonoid.le_symm_apply.mp (Submonoid.closure_le.mpr _))
      (AddSubmonoid.closure_le.mpr _)
  exact @AddSubmonoid.subset_closure (Additive M) _ S
  exact @Submonoid.subset_closure M _ S
```
If I understand the style guide corrrectly: indent lines 2+ in the theorem/definition statement by four spaces, but indent the lines of a tactic _proof_ by 2 spaces.

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 2]
```diff
@@ -79,39 +79,46 @@ section
...
 
 theorem AddSubmonoid.to_submonoid'_closure (S : Set (Additive M)) :
-    (AddSubmonoid.closure S).toSubmonoid' = Submonoid.closure (Multiplicative.ofAdd ⁻¹' S) :=
-  le_antisymm
-    (AddSubmonoid.toSubmonoid'.le_symm_apply.1 <|
-      AddSubmonoid.closure_le.2 Submonoid.subset_closure)
-    (Submonoid.closure_le.2 AddSubmonoid.subset_closure)
+    AddSubmonoid.toSubmonoid' (AddSubmonoid.closure S)
+      = Submonoid.closure (Multiplicative.ofAdd ⁻¹' S) := by
+    apply le_antisymm
```
Comment (hrmacbeth) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:117]: Indentation again.

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 3]
```diff
@@ -121,42 +128,51 @@ section
...
-multiplicative submonoids of `multiplicative A`. -/
+multiplicative submonoids of `Multiplicative A`. -/
 @[simps]
-def AddSubmonoid.toSubmonoid : AddSubmonoid A ≃o Submonoid (Multiplicative A)
-    where
+def AddSubmonoid.toSubmonoid :
+    AddSubmonoid A ≃o
+      Submonoid
+        (Multiplicative
+          A) where
```
Comment (hrmacbeth) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:137]: This had been
```suggestion
def AddSubmonoid.toSubmonoid : AddSubmonoid A ≃o Submonoid (Multiplicative A)
    where
```
as outputted by mathport, did that not parse?  I think it's easier on the eye.

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 4]
```diff
@@ -171,295 +187,330 @@ open Set
...
   image_subset_iff
 #align submonoid.map_le_iff_le_comap Submonoid.map_le_iff_le_comap
+#align add_submonoid.map_le_iff_le_comap AddSubmonoid.map_le_iff_le_comap
 
 @[to_additive]
-theorem gc_map_comap (f : F) : GaloisConnection (map f) (comap f) := fun S T => map_le_iff_le_comap
+theorem gc_map_comap (f : F) : GaloisConnection (map f) (comap f) := fun _ _ => map_le_iff_le_comap
 #align submonoid.gc_map_comap Submonoid.gc_map_comap
+#align add_submonoid.gc_map_comap AddSubmonoid.gc_map_comap
+
```
Comment (hrmacbeth) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:288]: extra line added here

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 5]
```diff
@@ -469,259 +520,304 @@ namespace OneMemClass
...
-
 variable {A : Type _} [SetLike A M] [hA : SubmonoidClass A M] (S' : A)
 
-/-- An `add_submonoid` of an `add_monoid` inherits a scalar multiplication. -/
-instance AddSubmonoidClass.hasNsmul {M} [AddMonoid M] {A : Type _} [SetLike A M]
-    [AddSubmonoidClass A M] (S : A) : HasSmul ℕ S :=
-  ⟨fun n a => ⟨n • a.1, nsmul_mem a.2 n⟩⟩
-#align add_submonoid_class.has_nsmul AddSubmonoidClass.hasNsmul
+/-- An `AddSubmonoid` of an `AddMonoid` inherits a scalar multiplication. -/
+instance AddSubmonoidClass.SMul {M} [AddMonoid M] {A : Type _} [SetLike A M]
```
Comment (hrmacbeth) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:557]: You've changed the autogenerated instance name from `.hasNsmul` to `.SMul`.  In mathlib3 `nsmul` had a particular meaning, referring to the automatic "scalar multiplication" by natural numbers one has in a monoid.  I think therefore that we should keep the extra information indicated by the "n".  Not sure if we've fixed a naming/capitalization convention for this yet -- maybe `.nSMul`?

Same on `SubmonoidClass.Pow`.  (But we were actually inconsistent in mathlib3, referring to `nsmul` but to `pow` rather than `npow`.)

**Comment by hrmacbeth** [comment]
For future reviewers: note that this is a long file and I only looked as far as line 560.

File: Mathlib/GroupTheory/Submonoid/Operations.lean (hunk 5 above)
Comment (LukasMias) [reply Mathlib/GroupTheory/Submonoid/Operations.lean]: Thanks for all the remarks! Followed them as best as I could :)

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 6]
```diff
@@ -0,0 +1,1525 @@
...
+@[to_additive
+      "Restriction of an `AddMonoid` hom to its range interpreted as a submonoid."]
+def mrangeRestrict {N} [MulOneClass N] (f : M →* N) : M →* (mrange f) :=
+  (f.codRestrict (mrange f)) fun x => ⟨x, rfl⟩
+#align monoid_hom.mrange_restrict MonoidHom.mrangeRestrict
+#align add_monoid_hom.mrangeRestrict AddMonoidHom.mrangeRestrict
+
+@[simp, to_additive]
+theorem coe_mrange_restrict {N} [MulOneClass N] (f : M →* N) (x : M) :
+    (f.mrangeRestrict x : N) = f x :=
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1151]:
```suggestion
theorem coe_mrangeRestrict {N} [MulOneClass N] (f : M →* N) (x : M) :
    (f.mrangeRestrict x : N) = f x :=
```

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 7]
```diff
@@ -0,0 +1,1525 @@
...
+  rfl
+#align monoid_hom.coe_mrange_restrict MonoidHom.coe_mrange_restrict
+#align add_monoid_hom.coe_mrange_restrict AddMonoidHom.coe_mrange_restrict
+
+@[to_additive]
+theorem mrange_restrict_surjective (f : M →* N) : Function.Surjective f.mrangeRestrict :=
+  fun ⟨_, ⟨x, rfl⟩⟩ => ⟨x, rfl⟩
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1158]:
```suggestion
theorem mrangeRestrict_surjective (f : M →* N) : Function.Surjective f.mrangeRestrict :=
  fun ⟨_, ⟨x, rfl⟩⟩ => ⟨x, rfl⟩
```

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 8]
```diff
@@ -0,0 +1,1525 @@
...
+#align add_monoid_hom.comap_bot' AddMonoidHom.comap_bot'
+
+@[simp, to_additive]
+theorem restrict_mker (f : M →* N) : mker (f.restrict S) = f.mker.comap S.subtype :=
+  rfl
+#align monoid_hom.restrict_mker MonoidHom.restrict_mker
+#align add_monoid_hom.restrict_mker AddMonoidHom.restrict_mker
+
+@[to_additive]
+theorem range_restrict_mker (f : M →* N) : mker (mrangeRestrict f) = mker f := by
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1209]:
```suggestion
@[to_additive]
theorem mrangeRestrict_mker (f : M →* N) : mker (mrangeRestrict f) = mker f := by
```

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 9]
```diff
@@ -0,0 +1,1525 @@
...
+
+variable [MulOneClass M']
+
+@[to_additive]
+instance [SMul M' α] (S : Submonoid M') : SMul S α :=
+  SMul.comp _ S.subtype
+
+@[to_additive]
+instance smul_comm_class_left [SMul M' β] [SMul α β] [SMulCommClass M' α β]
+    (S : Submonoid M') : SMulCommClass S α β :=
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1481]:
```suggestion
instance smulCommClass_left [SMul M' β] [SMul α β] [SMulCommClass M' α β]
    (S : Submonoid M') : SMulCommClass S α β :=
```

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 10]
```diff
@@ -0,0 +1,1525 @@
...
+  ⟨fun a _ _ => (smul_comm (a : M') _ _ : _)⟩
+#align submonoid.smul_comm_class_left Submonoid.smul_comm_class_left
+#align add_submonoid.vadd_comm_class_left AddSubmonoid.vadd_comm_class_left
+
+@[to_additive]
+instance smul_comm_class_right [SMul α β] [SMul M' β] [SMulCommClass α M' β]
+    (S : Submonoid M') : SMulCommClass α S β :=
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1488]:
```suggestion
instance smulCommClass_right [SMul α β] [SMul M' β] [SMulCommClass α M' β]
    (S : Submonoid M') : SMulCommClass α S β :=
```

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 11]
```diff
@@ -0,0 +1,1523 @@
...
+  (gc_map_comap f : GaloisConnection (map f) (comap f)).u_inf
+#align submonoid.comap_inf Submonoid.comap_inf
+#align add_submonoid.comap_inf AddSubmonoid.comap_inf
+
+@[to_additive]
+theorem comap_infᵢ {ι : Sort _} (f : F) (s : ι → Submonoid N) :
+    (infᵢ s).comap f = ⨅ i, (s i).comap f :=
+  (gc_map_comap f : GaloisConnection (map f) (comap f)).u_infᵢ
+#align submonoid.comap_infi Submonoid.comap_infᵢ
+#align add_submonoid.comap_infᵢ AddSubmonoid.comap_infᵢ
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:347]:
```suggestion
#align add_submonoid.comap_infi AddSubmonoid.comap_infᵢ
```

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 12]
```diff
@@ -0,0 +1,1523 @@
...
+
+namespace SubmonoidClass
+
+/-- A submonoid of a monoid inherits a power operator. -/
+instance nPow {M} [Monoid M] {A : Type _} [SetLike A M] [SubmonoidClass A M] (S : A) : Pow S ℕ :=
+  ⟨fun a n => ⟨a.1 ^ n, pow_mem a.2 n⟩⟩
+#align submonoid_class.has_pow SubmonoidClass.nPow
+
+attribute [to_additive] nPow
+
```
Comment (dupuisf) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:556]: I guess there's a missing `#align` statement here...?

**Comment by rwbarton** [comment]
bors merge

**Review by dupuisf — COMMENTED** [review]
Looks good!

bors d+

**Comment by hrmacbeth** [comment]
bors r-

(Reid merged just before Frédéric gave some final comments)

File: Mathlib/GroupTheory/Submonoid/Operations.lean (hunk 12 above)
Comment (LukasMias) [reply Mathlib/GroupTheory/Submonoid/Operations.lean:556]: I think my problem is that I don't fully know what is even happening here. We manually define both ```AddSubmonoidClass.nSMul``` and ```SubmonoidClass.nPow```, but we still need to tell lean that they correspond to one another via this ```to_additive``` attribute? And this should be functionally the same as adding ```@[to_additive]``` to the declaration of ```SubmonoidClass.nPow````, right? 

If that's correct, then I don't think we need an #align here, since we are already aligning the only possible thing we could be aligning here, namely
```lean
#align add_submonoid_class.has_nsmul AddSubmonoidClass.nSMul.
``` 

I won't be here for the rest of the day, so if there is a meaningful align statement that I don't see here, feel free to add it on my behalf!

Comment (rwbarton) [reply Mathlib/GroupTheory/Submonoid/Operations.lean:556]: Yes, I agree with Lukas's analysis.

**Comment by rwbarton** [comment]
Trying again!
bors merge
